US06528505B1
Synthesis of 5-Amino-5,7-dihydro-6H-dibenzo[a,c]cyclohepten-6-ol Hydrochloride
A round bottom flask was charged with 5,7-dihydro-6H-dibenzo[a,c]cyclohepten-6-one (1.0 g, 4.81 mmol)(CAS #1139-82-8, prepared as described in Tetrahedron Letters, Vol. 28, No. 23, (1987), pp 2633-2636) and butyl nitrite (0.673 mL, 5.77 mmol) (Aldrich) in Et2O. The solution was cooled to 0° C. and treated drop-wise with a saturated solution of HCl(g)/Et2O. After 5 hours at 0° C., the resulting precipitate was filtered, rinsed with cold Et2O and vacuum dried to give the title compound as a colorless solid.

reactant | 5,7-dihydro-6H-dibenzo[a,c]cyclohepten-6-one | 4.81 mmol, 1.0 g | C1=CC=CC2=C1C1=C(CC(C2)=O)C=CC=C1 | C15H12O
reactant | butyl nitrite | 5.77 mmol, 0.673 mL | N(=O)OCCCC | C4H9NO2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 5-Amino-5,7-dihydro-6H-dibenzo[a,c]cyclohepten-6-ol Hydrochloride | Cl.NC1C(CC2=C(C3=C1C=CC=C3)C=CC=C2)O | InChI=1S/C15H15NO.ClH/c16-15-13-8-4-3-7-12(13)11-6-2-1-5-10(11)9-14(15)17;/h1-8,14-15,17H,9,16H2;1H
